US07964615B2
3-Oxo-3-phenylpropyl acetate
To a solution of 3-chloro-1-phenylpropan-1-one (1.0 g, 5.93 mmol) in acetic acid (8 mL) was added sodium acetate (2.43 g, 29.7 mmol) and potassium iodide (100 mg). The mixture was heated in a sealed tube at 130° C. overnight. After cooling, the reaction was diluted with water (20 mL) and extracted with methylene chloride (3×20 mL). The combined organic extracts were washed with water (2×50 mL), saturated solution of sodium bicarbonate (2×50 mL) and brine (20 mL), dried (Na2SO4), and the solvent removed under reduced pressure. The title compound was obtained (1.0 g, 88%) as an orange solid.

reactant | 3-chloro-1-phenylpropan-1-one | 5.93 mmol, 1.0 g | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
reactant | sodium acetate | 29.7 mmol, 2.43 g | C(C)(=O)[O-].[Na+]
reactant | potassium iodide | 100 mg | [I-].[K+]
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | water | 20 mL | O | H2O
product | 3-Oxo-3-phenylpropyl acetate | C(C)(=O)OCCC(C1=CC=CC=C1)=O | C11H12O3
